US06335342B1
Preparation of 3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenamide
To a solution of 264 mg (1 mmol.) of 3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenoic acid in 1.5 ml of THFd and 3 ml of DMFd was added 350 μl of N,N-diisopropylethylamine and 154 mg (1.4 mmol.) of N-hydroxybenzotriazole ammonium salt. The obtained mixture was cooled to −20° C. and 266 mg (1.4 mmol.) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide were added. The reaction mixture was stirred for 2 hours at −20° C. and then warmed to room temperature. After additional 12 hours, the organic layer was diluted with dichloromethane, washed with saturated sodium bicarbonate, brine, dried over sodium sulphate and evaporated. The residual solid was triturated with EtOAc to afford 76 mg of the title compound as a white solid (yield 29%) m.p. 222-224° C.

reactant | 3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenoic acid | 1 mmol, 264 mg | N1C=C(C=2C1=NC=CC2)C=C(C(=O)O)C2=CC=CC=C2 | C16H12N2O2
reactant | N,N-diisopropylethylamine | 350 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-hydroxybenzotriazole ammonium salt | 1.4 mmol, 154 mg | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.4 mmol, 266 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenamide | 76 mg, yield 29% | N1C=C(C=2C1=NC=CC2)C=C(C(=O)N)C2=CC=CC=C2 | C16H13N3O
